US05807886
(a) 2-((phenyl)carbonyl)amino-7-nitrotetralin
To 2-amino-7-nitrotetralin (2.8 g, 14.5 mmol) in THF (50 ml) and 10% K2CO3 (100 ml) was added benzoyl chloride (1.7 ml, 15.3 mmol). After the addition was complete, the mixture was diluted with water to a volume of 250 ml. The precipitated solids were collected by filtration, washed with water, and dried in vacuo: (4.2 g, 98%), m.p. 194°-198° C.

reactant | 2-amino-7-nitrotetralin | 14.5 mmol, 2.8 g | NC1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C10H12N2O2
reactant | benzoyl chloride | 15.3 mmol, 1.7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | K2CO3 | 100 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | 2-((phenyl)carbonyl)amino-7-nitrotetralin | C1(=CC=CC=C1)C(=O)NC1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C17H16N2O3
